* source RELATORIO8
V_V4         N00194 0  
+SIN 0 5 1k 0 0 0
R_R1         N00194 N00200  390  
R_R2         N00221 0  1k  
R_R3         0 N00200  820  
C_C1         0 N00200  2.2uF  
L_L1         N00200 N00221  100mH  
