* source PROBLEMAPRATICO8-2
V_V1         N00011 0  
+PWL 0 0 0.001 12 2 12 2.001 0 
R_R1         N00011 N00017  5  
C_C1         0 N00017  1mF  
L_L1         0 N00017  2H  
