* source RLC_SERIE
V_V1         N00013 0  
+PWL 0 0 0.001 12 2 12 2.001 0 
C_C1         0 N00029  0.03703  
R_R1         N00013 N00019  60  
R_R2         0 N00019  60  
L_L1         N00019 N00029  3H  
